US07618978B2
2-(Propane-2-sulfonyl)-6-prop-2-ynylamino-isonicotinic acid
Add 1 N lithium hydroxide (0.52 mL, 0.52 mmol) to a solution of 2-(propane-2-sulfonyl) -6-prop-2-ynylamino-isonicotinic acid methyl ester (0.102 g, 0.344 mmol) in THF (2 mL) at 0° C. Stir the mixture at room temperature for 3 h and acidify the solution to about pH =2 and concentrate the solvent to one half volume. Partition the residue between ethyl acetate and water, and extract the aqueous layer with ethyl acetate (2×10 mL). Wash the combined organic extract with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (85%).

reactant | lithium hydroxide | 0.52 mmol, 1 N, 0.52 mL | [OH-].[Li+]
reactant | 2-(propane-2-sulfonyl) -6-prop-2-ynylamino-isonicotinic acid methyl ester | 0.344 mmol, 0.102 g | COC(C1=CC(=NC(=C1)NCC#C)S(=O)(=O)C(C)C)=O | C13H16N2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(Propane-2-sulfonyl)-6-prop-2-ynylamino-isonicotinic acid | 85% | CC(C)S(=O)(=O)C=1C=C(C(=O)O)C=C(N1)NCC#C | C12H14N2O4S
